US08022218B2
(a). 3-(2-Bromo-6-ethoxy-4-formyl-phenoxymethyl)-benzoic acid methyl ester
Alkylation of 3-bromo-5-ethoxy-4-hydroxy benzaldehyde (2 g) with 3-bromomethyl-benzoic acid methyl ester (2.06 g) was performed according to the method described in example 1a. The residue was chromatographed on silica gel in heptane/ethyl acetate=7/3 (v/v) as eluent. Yield: 2.42 g. MS-ESI: [M+H]+=393/395

reactant | 3-bromo-5-ethoxy-4-hydroxy benzaldehyde | 2 g | BrC=1C=C(C=O)C=C(C1O)OCC | C9H9BrO3
reactant | 3-bromomethyl-benzoic acid methyl ester | 2.06 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
product | 3-(2-Bromo-6-ethoxy-4-formyl-phenoxymethyl)-benzoic acid methyl ester | COC(C1=CC(=CC=C1)COC1=C(C=C(C=C1OCC)C=O)Br)=O | C18H17BrO5
